US05055569
N-[2-(1H-imidazol-1-yl)ethyl]adenosine, hydrochloride
To a suspension of 6-chloropurine riboside (1.63 g, 5.69 mmol) in 12 ml of absolute ethanol was added 0.63 g (5.7 mmol) of 2-(imidazol-1-yl)ethylamine (prepared in accordance with Z.Obsch. Chem. 9 1933 (1939); Chem Ab. 1940 2466) plus 0.80 g (8.0 mmol) of triethylamine. The reaction mixture was heated under reflux for 77 hours. Removal of the solvent in vacuo and chromatography of the residue on silica gel eluting with a mixture of MeOH (NH3) and dichloromethane in a ratio of 14:86 gave the free base of the title compound in an amount of 1.2 g (59% yield). The material was converted to the hydrochloride salt by suspending the material in 20 ml of water at 0° centigrade and adding 1N hydrochloric acid until a pH of 2.6 was attained. The solution was frozen and lyophilized to a white powder which was passed through a column of cellulose powder eluting with a mixture of 85 parts n-butanol and 15 parts water. The appropriate fractions were combined and concentrated to give a glass which was azeotroped twice with water and then dissolved in water, frozen and lyophilized yielding 0.97 g of the title compound (41% yield) as a white powder.

reactant | 6-chloropurine riboside | 5.69 mmol, 1.63 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 2-(imidazol-1-yl)ethylamine | 5.7 mmol, 0.63 g | N1(C=NC=C1)CCN | C5H9N3
reactant | triethylamine | 8.0 mmol, 0.80 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | N-[2-(1H-imidazol-1-yl)ethyl]adenosine, hydrochloride | 59% yield | Cl.N1(C=NC=C1)CCNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | InChI=1S/C15H19N7O4.ClH/c23-5-9-11(24)12(25)15(26-9)22-8-20-10-13(18-6-19-14(10)22)17-2-4-21-3-1-16-7-21;/h1,3,6-9,11-12,15,23-25H,2,4-5H2,(H,17,18,19);1H/t9-,11-,12-,15-;/m1./s1
